US04792570
A twofold stoichiometric excess of 3% hydrochloric acid in methanol is added to a methanolic solution of 1.0 g. of 4-(4-biphenyloxy)-1-aminobutane. Diethyl ether is added until precipitation is complete. The product is filtered, washed with ether, air dried and recrystallized to give 4-(4-biphenyloxy)-1-aminobutane hydrochloride, m.p. 202°-205° C.

reactant | hydrochloric acid | Cl | ClH
reactant | 4-(4-biphenyloxy)-1-aminobutane | C1(=CC=C(C=C1)OCCCCN)C1=CC=CC=C1 | C16H19NO
reactant | Diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
product | 4-(4-biphenyloxy)-1-aminobutane hydrochloride | Cl.C1(=CC=C(C=C1)OCCCCN)C1=CC=CC=C1 | InChI=1S/C16H19NO.ClH/c17-12-4-5-13-18-16-10-8-15(9-11-16)14-6-2-1-3-7-14;/h1-3,6-11H,4-5,12-13,17H2;1H
